US04853384
A mixture of 4.89 g of 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine, 50 ml of 95% ethanol and 2.1 g of nitrourea was refluxed at 70° C. until the evolution of gas had ceased. After refluxing for an additional 30 minutes, the mixture was cooled, treated with 200 ml of water and extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated. The concentrate was purified by means of high pressure liquid chromatography (silica gel; elution with ethyl acetate) to yield 3.5 g (64.81%) of 1-aminocarbonyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine, m.p. 155°-160° C.

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 4.89 g | FC1=C(OC2(CCNCC2)C2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C17H14F5NO
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | nitrourea | 2.1 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
solvent | water | 200 ml | O | H2O
product | 1-aminocarbonyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 3.5 g, 64.81% | NC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=C(C(=C(C(=C1F)F)F)F)F | C18H15F5N2O2
